US06593314B1
n-Butyllithium (16.5 mL of a 2.5 M hexanes solution, 41.2 mmol)was added to a 0° C. solution of diisopropylamine (5.4 mL, 41.3 mmol) in THF (40 mL). After stirring for 5 minutes, tributyltin hydride (10 g, 34.4 mmol) was added. After stirring for 15 minutes at 0° C., the reaction mixture was cooled to −78° C. and 3-bromo-2-methylpropene (4.0 mL, 39.7 mmol) was added dropwise. After stirring for an additional hour, the cold reaction mixture was quenched with dilute ammonium chloride solution and extracted with ethyl acetate. The ethyl acetate layer was dried (MgSO4), filtered and concentrated to afford a colorless liquid, 2-methylallyl tributyltin (11.6 g, 98%) which was used without purification for the next step.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 41.3 mmol, 5.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | tributyltin hydride | 34.4 mmol, 10 g | C(CCC)[SnH](CCCC)CCCC
reactant | 3-bromo-2-methylpropene | 39.7 mmol, 4.0 mL | BrCC(=C)C | C4H7Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-methylallyl tributyltin | 11.6 g, 98% | CC(C[Sn](CCCC)(CCCC)CCCC)=C | InChI=1S/C4H7.3C4H9.Sn/c1-4(2)3;3*1-3-4-2;/h1-2H2,3H3;3*1,3-4H2,2H3;
